data/oMe_Silver.jsonl
{"reaction_id": "NR-314_1-CCCC(C)C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-c1ccccc1_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O[Os](=O)(=O)OC1(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
{"reaction_id": "NR-111_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(C)(C)C_3-c1ccccc1_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_5-C_6-c1ccccc1_7-c1ccccc1","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C)(c1ccccc1)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)[Si](C)(C)C","C(=O)(c1ccccc1)c1ccccc1","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C)(c1ccccc1)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(O)(c1ccccc1)c1ccccc1"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(c1ccccc1)c1ccccc1","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)[C+](c1ccccc1)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)c1ccccc1","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C)(c1ccccc1)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)c1ccccc1","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C)(c1ccccc1)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(O)(c1ccccc1)c1ccccc1","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
